US06103708
2-Naphthalen-2-ylmethyl-4,5-dimethylfuran
The title compound was prepared according to the procedure in Example 5, step 1 using 2,3-dimethylfuran, 2-(bromomethyl)naphthalene and 1.6M n-BuLi/hexanes in THF. 1H NMR (DMSO-d6) δ 1.89 (s, 3 H), 2.15 (s, 3 H), 4.08 (s, 2 H), 5.95 (s, 1 H), 7.40 (d, 1 H), 7.45-7.57 (m, 2 H), 7.77 (s, 1 H), 7.83-7.91 (m, 3 H).

reactant | 2,3-dimethylfuran | CC=1OC=CC1C | C6H8O
reactant | 2-(bromomethyl)naphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | THF | C1CCOC1 | C4H8O
product | 2-Naphthalen-2-ylmethyl-4,5-dimethylfuran | C1=C(C=CC2=CC=CC=C12)CC=1OC(=C(C1)C)C | C17H16O
